US06825220B2
A mixture of 4-methoxyoxindole (3.0 g, 18.4 mmol) and piperidine (3.5 mL, 36.89 mmol) in acetone (100 mL) is heated at reflux for 18 hours. The mixture is concentrated to dryness and triturated with methanol (20 mL). Filtration removed 800 mg of unreacted 4-methoxyoxindole. The filtrate is preadsorbed on silica gel (5 g), and purified by flash chromtography (120 g SiO2, 25% ethyl acetate:hexane to 50% ethyl acetate:hexane) to provide 700 mg (19%) of 3-isopropylidene-4-methoxy-1,3-dihydro-indol-2-one. MS (ESI+) 204.

reactant | 4-methoxyoxindole | 18.4 mmol, 3.0 g | COC1=C2CC(NC2=CC=C1)=O | C9H9NO2
reactant | piperidine | 36.89 mmol, 3.5 mL | N1CCCCC1 | C5H11N
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 3-isopropylidene-4-methoxy-1,3-dihydro-indol-2-one | 700 mg, 19% | C(C)(C)=C1C(NC2=CC=CC(=C12)OC)=O | C12H13NO2
